US07977331B1
To a solution of 2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionic acid (200 mg, 0.42 mmol) in chloroform (4.0 ml) was added a catalytic amount of N,N-dimethylformamide solution, thionyl chloride (0.07 ml, 1.26 mmol) was added dropwise under ice-cooling, and the mixture was stirred at room temperature for 3 hr. Then, and the solvent was evaporated under reduced pressure to give a yellow solid. The obtained solid was dissolved in chloroform (1.5 ml), and added dropwise to a solution of methyl 4-aminobenzoate (95.2 mg, 0.63 mmol) in a mixture of chloroform (1.0 ml) and pyridine (1.0 ml) under ice-cooling. Then, methyl 4-aminobenzoate (32 mg, 0.21 mmol) and pyridine (2.0 ml) were added, and the mixture was stirred at room temperature for 24 hr. To the reaction mixture was added aqueous sodium hydrogen carbonate solution and the mixture was extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. Methanol and chloroform were added to the residue, and the mixture was stirred. The precipitate was collected by filtration to give methyl 4-{2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionylamino}benzoate (105 mg, yield 41%).

reactant | 2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionic acid | 0.42 mmol, 200 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC)C=C(C=C2)C(=O)NC(C(=O)O)(C)C | C28H32N2O5
reactant | thionyl chloride | 1.26 mmol, 0.07 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 4-aminobenzoate | 0.63 mmol, 95.2 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | methyl 4-aminobenzoate | 0.21 mmol, 32 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 4.0 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1.0 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 4-{2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionylamino}benzoate | 105 mg, yield 41% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC)C=C(C=C2)C(=O)NC(C(=O)NC2=CC=C(C(=O)OC)C=C2)(C)C | C36H39N3O6
